### PR TITLE
feat(ErdosProblems): 399

### PR DESCRIPTION
**Pull request by conglu1997**
Closes https://github.com/google-deepmind/formal-conjectures/issues/710 with the help of codex.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/399.lean [hunk 1]
```diff
@@ -0,0 +1,103 @@
...
+@[category research solved, AMS 11]
+theorem erdos_399 : answer(False) ↔
+    ¬ ∃ (n x y k : ℕ), 1 < x * y ∧ 2 < k ∧ FactorialEqPowAddOrSub n x y k := by
+  constructor
+  · intro h
+    cases h
+  · intro h
+    refine (h ?_).elim
+    refine ⟨10, 48, 36, 4, by decide, by decide, ?_⟩
+    exact Or.inr erdos_399.variants.barfield
```
Comment (CoolRmal) [inline FormalConjectures/ErdosProblems/399.lean]:
```suggestion
  ⟨False.elim, fun h => h ⟨10, 48, 36, 4, by decide, by decide, by native_decide⟩⟩
```
How about a single-line proof?

File: FormalConjectures/ErdosProblems/399.lean [hunk 2]
```diff
@@ -0,0 +1,103 @@
...
+
+/-- The disjunction `n! = x^k + y^k` or `n! = x^k - y^k`. -/
+abbrev FactorialEqPowAddOrSub (n x y k : ℕ) : Prop :=
+  FactorialEqPowAdd n x y k ∨ FactorialEqPowSub n x y k
+
+/-- Jonas Barfield's counterexample: `10! = 48^4 - 36^4`. -/
+@[category research solved, AMS 11]
+theorem erdos_399.variants.barfield :
+    FactorialEqPowSub (n := 10) (x := 48) (y := 36) (k := 4) := by
+  native_decide
```
Comment (CoolRmal) [inline FormalConjectures/ErdosProblems/399.lean]: I think you can delete this theorem (as it is really not a theorem). And in the docstring of the next theorem, you can explain why it is false by mentioning the counterexample 10, 48, 36 4.

File: FormalConjectures/ErdosProblems/399.lean (hunk 1 above)
Comment (conglu1997) [reply FormalConjectures/ErdosProblems/399.lean]: Done thank you!

File: FormalConjectures/ErdosProblems/399.lean (hunk 2 above)
Comment (conglu1997) [reply FormalConjectures/ErdosProblems/399.lean]: Done thank you!

File: FormalConjectures/ErdosProblems/399.lean [hunk 3]
```diff
@@ -0,0 +1,94 @@
...
+abbrev FactorialEqPowAdd (n x y k : ℕ) : Prop :=
+  n ! = x ^ k + y ^ k
+
+/-- The equation `n! = x^k - y^k`, encoded without subtraction as `n! + y^k = x^k`. -/
+abbrev FactorialEqPowSub (n x y k : ℕ) : Prop :=
+  n ! + y ^ k = x ^ k
+
+/-- The disjunction `n! = x^k + y^k` or `n! = x^k - y^k`. -/
+abbrev FactorialEqPowAddOrSub (n x y k : ℕ) : Prop :=
+  FactorialEqPowAdd n x y k ∨ FactorialEqPowSub n x y k
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/399.lean]: These defs obscure the statements IMO. Can you inline them instead?

File: FormalConjectures/ErdosProblems/399.lean [hunk 4]
```diff
@@ -0,0 +1,94 @@
...
+Is it true that there are no solutions to `n! = x^k ± y^k` with `x,y,n ∈ ℕ`, `x*y > 1`, and
+`k > 2`?
+
+The answer is no: Jonas Barfield found the counterexample `10! = 48^4 - 36^4` (equivalently,
+`10! + 36^4 = 48^4`).
+-/
+@[category research solved, AMS 11]
+theorem erdos_399 : answer(False) ↔
+    ¬ ∃ (n x y k : ℕ), 1 < x * y ∧ 2 < k ∧ FactorialEqPowAddOrSub n x y k := by
+  exact ⟨False.elim, fun h => h ⟨10, 48, 36, 4, by decide, by decide, by native_decide⟩⟩
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/399.lean]:
```suggestion
    ¬ ∃ (n x y k : ℕ), 1 < x * y ∧ 2 < k ∧ (n ! = x ^ k + y ^ k ∨ n ! + y ^ k = x ^ k) := by
  simp only [false_iff, Classical.not_not]
  exact ⟨10, 48, 36, 4, by decide⟩
```

File: FormalConjectures/ErdosProblems/399.lean [hunk 5]
```diff
@@ -0,0 +1,94 @@
...
+@[category research solved, AMS 11]
+theorem erdos_399.variants.erdos_oblath :
+    ∀ {n x y k : ℕ}, x.Coprime y → 1 < x * y → 2 < k → k ≠ 4 →
+      ¬ FactorialEqPowAddOrSub n x y k := by
+  sorry
+
+/-- Pollack and Shapiro proved there are no solutions to `n! = x^4 - 1`. -/
+@[category research solved, AMS 11]
+theorem erdos_399.variants.pollack_shapiro :
+    ¬ ∃ (n x : ℕ), n ! + 1 = x ^ 4 := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/399.lean]:
```suggestion
theorem erdos_399.variants.pollack_shapiro (n x : ℕ) : n ! + 1 ≠ x ^ 4 := by
```

File: FormalConjectures/ErdosProblems/399.lean [hunk 6]
```diff
@@ -0,0 +1,94 @@
...
+  sorry
+
+/--
+Cambie observed that there are no solutions to `n! = x^4 + y^4` with `x.Coprime y` and `x*y > 1`.
+-/
+@[category research solved, AMS 11]
+theorem erdos_399.variants.cambie :
+    ∀ {n x y : ℕ}, x.Coprime y → 1 < x * y → n ! ≠ x ^ 4 + y ^ 4 := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/399.lean]:
```suggestion
theorem erdos_399.variants.cambie {n x y : ℕ} :
    x.Coprime y → 1 < x * y → n ! ≠ x ^ 4 + y ^ 4 := by
```
Same below

File: FormalConjectures/ErdosProblems/399.lean [hunk 7]
```diff
@@ -0,0 +1,94 @@
...
+  sorry
+
+/--
+The only solution to `n! = x^2 + y^2` with `x*y > 1` is `6! = 12^2 + 24^2` (up to swapping `x`
+and `y`).
+-/
+@[category research solved, AMS 11]
+theorem erdos_399.variants.sum_two_squares :
+    ∀ {n x y : ℕ}, 1 < x * y → n ! = x ^ 2 + y ^ 2 →
+      n = 6 ∧ ((x = 12 ∧ y = 24) ∨ (x = 24 ∧ y = 12)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/399.lean]:
```suggestion
      n = 6 ∧ (x = 12 ∧ y = 24 ∨ x = 24 ∧ y = 12) := by
```

File: FormalConjectures/ErdosProblems/399.lean (hunk 3 above)
Comment (conglu1997) [reply FormalConjectures/ErdosProblems/399.lean]: Done thanks!

File: FormalConjectures/ErdosProblems/399.lean [hunk 8]
```diff
@@ -0,0 +1,82 @@
...
+theorem erdos_399 : answer(False) ↔
+    ¬ ∃ (n x y k : ℕ), 1 < x * y ∧ 2 < k ∧ (n ! = x ^ k + y ^ k ∨ n ! + y ^ k = x ^ k) := by
+  simp only [false_iff, Classical.not_not]
+  exact ⟨10, 48, 36, 4, by decide⟩
+
+/-- Erdős and Obláth proved there are no solutions when `x.Coprime y` and `k ≠ 4`. -/
+@[category research solved, AMS 11]
+theorem erdos_399.variants.erdos_oblath {n x y k : ℕ} :
+    x.Coprime y → 1 < x * y → 2 < k → k ≠ 4 →
+      ¬ (n ! = x ^ k + y ^ k ∨ n ! + y ^ k = x ^ k) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/399.lean]:
```suggestion
      n ! ≠ x ^ k + y ^ k ∧ n ! + y ^ k ≠ x ^ k := by
```

**Comment by conglu1997** [comment]
Thanks!
